US06624119B1
4-Chloro-2,6-difluorophenyl Isocyanate
40 g of 4-chloro-2,6-difluoroaniline were dissolved in 300 ml of absolute toluene. With stirring, 100 ml of trichloromethyl chloroformate were added dropwise at 20° C. The mixture was slowly heated to reflux. After three and half hours, the mixture was concentrated and the resulting isocyanate was used directly for the synthesis of intermediate 3.

reactant | 4-chloro-2,6-difluoroaniline | 40 g | ClC1=CC(=C(N)C(=C1)F)F | C6H4ClF2N
reactant | trichloromethyl chloroformate | 100 ml | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Chloro-2,6-difluorophenyl Isocyanate | ClC1=CC(=C(C(=C1)F)N=C=O)F | C7H2ClF2NO
